US05204336
(a) 3-Tert-butyl-4-hydroxy-5,6,7,8-tetrahydronaphthaldehyde
Stannic chloride (36.71 g, 0.141 mole) was added to a solution of 2-tert-butyl-5,6,7,8-tetrahydro-1-naphthol (16.0 g, 0.0783 mole) in dry dichloromethane (150 ml) at -10°. To the stirred solution was added 1,1-dichloromethyl methyl ether (13.45 g, 0.118 mole) dropwise at 0°. After 10 minutes, the reaction mixture was treated with ice-water and extracted with ethyl acetate (2×200 ml). The organic extract washed with aqueous saturated sodium chloride and dried over magnesium sulphate. The solvents were removed in vacuo and the solid residue was triturated with n-pentane:diethyl ether (4:1) mixture to give a grey white crystalline solid which was filtered off and air-dried to yield 10.15 g (55.7%), m.p. 193°-94°.

reactant | 2-tert-butyl-5,6,7,8-tetrahydro-1-naphthol | 0.0783 mole, 16.0 g | C(C)(C)(C)C1=C(C=2CCCCC2C=C1)O | C14H20O
reactant | 1,1-dichloromethyl methyl ether | 0.118 mole, 13.45 g | COC(Cl)Cl | C2H4Cl2O
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 3-Tert-butyl-4-hydroxy-5,6,7,8-tetrahydronaphthaldehyde | C(C)(C)(C)C=1C=C(C=2CCCCC2C1O)C=O | C15H20O2
